US07420083B2
This compound was produced using similar methods as those used in Step 3, example 27, starting with 4-amino-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester (1.80 g, 5.08 mmol), trifluoroacetic acid (30 mL) and sodium nitrite (0.42 g, 6.15 mmol in 10 mL of water). The crude material was purified by flash chromatography through silica gel using ethyl acetate/hexanes (0/100 gradient to 20/80) to give 4-hydroxy-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester (1.49 g, 83%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6); δ 11.98 (s, 1H), 10.62 (s, 1H), 8.21 (d, 1H), 8.06 (d, 2H), 7.90 (d, 1H), 7.61 (d, 2H), 6.61 (dd, 1H), 3.84 (s, 3H).

reactant | 4-amino-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester | 5.08 mmol, 1.80 g | COC(C1=C(C=C(C=C1)N)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C16H13F3N2O4
reactant | sodium nitrite | 6.15 mmol, 10 mL, 0.42 g | N(=O)[O-].[Na+]
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-hydroxy-2-(4-trifluoromethoxy-benzoylamino)-benzoic acid methyl ester | 1.49 g, 83% | COC(C1=C(C=C(C=C1)O)NC(C1=CC=C(C=C1)OC(F)(F)F)=O)=O | C16H12F3NO5
